US06420359B1
b) 3-Amino-2-(ethylamino)pyridine
A solution of 2-(ethylamino)-3-nitropyridine (52 g) in MeOH (600 mL) was stirred overnight at room temperature under hydrogen (1 atm.) in the presence of 20% Pd(OH)2/C (10.4 g). The catalyst was removed by filtration through diatomaceous earth. The filtrate was concentrated under reduced pressure to give the title compound as a black solid (39 g, 88% yield over steps a) and b).

reactant | 2-(ethylamino)-3-nitropyridine | 52 g | C(C)NC1=NC=CC=C1[N+](=O)[O-] | C7H9N3O2
solvent | MeOH | 600 mL | CO | CH4O
catalyst | Pd(OH)2/C | 10.4 g | [OH-].[OH-].[Pd+2]
product | 3-Amino-2-(ethylamino)pyridine | 88% yield | NC=1C(=NC=CC1)NCC | C7H11N3
